US07253196B2
2-[(cyclohexylmethyl)amino]-5-phenyl-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-phenyl-1,3-oxazol-4(5H)-one and aminomethylcyclohexane according to Method G+H.

reactant | 2-amino-5-phenyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)C1=CC=CC=C1 | C9H8N2O2
reactant | aminomethylcyclohexane | NCC1CCCCC1 | C7H15N
product | 2-[(cyclohexylmethyl)amino]-5-phenyl-1,3-oxazol-4(5H)-one | C1(CCCCC1)CNC=1OC(C(N1)=O)C1=CC=CC=C1 | C16H20N2O2
